US07807709B2
(3R,4R)-3-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4-({isopropyl-[3-(3-methoxy-propoxy)-4-methyl-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
DEAD is slowly added to a solution of (3S,4R)-3-hydroxymethyl-4-({isopropyl-[3-(3-methoxy-propoxy)-4-methyl-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (210 mg, 0.44 mmol), phthalimide (07 mg, 0.66 mmol) and PPh3 (173 mg, 0.66 mmol) in THF (5 mL) at RT. The resulting yellow solution is stirred for another 2 h before H2O is added and the mixture is extracted with ethyl acetate. Drying (Na2SO4) of the extracts, filtration and evaporation of the solvent affords the crude product which is purified by preparative HPLC (Waters C18 ODB, eluent: CH3CN/H2O 5%/2 min, CH3CN/H2O 5-100%/10 min, 100% CH3CN/2.5 min, flow 20 mL/min) to give the desired product. MS (LC-MS): 630.2 [M+Na]+; tR (HPLC, Waters Symmetry C18 column, 20-95% CH3CN/H2O/3.5 min, 95% CH3CN/H2O, 2 min, CH3CN and H2O containing 0.1% TFA, flow: 0.6 mL/min): 4.40 min.

reactant | DEAD | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | (3S,4R)-3-hydroxymethyl-4-({isopropyl-[3-(3-methoxy-propoxy)-4-methyl-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.44 mmol, 210 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)C)OCCCOC)=O)C(C)C)CO | C26H42N2O6
reactant | phthalimide | 0.66 mmol | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | PPh3 | 0.66 mmol, 173 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | (3R,4R)-3-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4-({isopropyl-[3-(3-methoxy-propoxy)-4-methyl-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)C)OCCCOC)=O)C(C)C)CN1C(C2=CC=CC=C2C1=O)=O | C34H45N3O7
